US06531502B1
2,3-Dihydro-5-formylbenzofuran (commercially available) was condensed with 2-oxindole to give 0.25 g of 3-(2,3-dihydrobenzofuran-5-ylmethylene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 2,3-Dihydro-5-formylbenzofuran | C(=O)C=1C=CC2=C(CCO2)C1 | C9H8O2
reactant | 2-oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
product | 3-(2,3-dihydrobenzofuran-5-ylmethylene)-1,3-dihydroindol-2-one | 0.25 g | O1CCC2=C1C=CC(=C2)C=C2C(NC1=CC=CC=C21)=O | C17H13NO2
